US04963590
N,N-Dimethyl-2-cyano-3-(3,4-dihydroxy-5-nitrophenyl)acrylamide
A solution containing 1.83 g of 3,4-dihydroxy-5-nitrobenzaldehyde, 1.2 g of N,N-dimethylcyanoacetamide and catalytic amount of piperidine acetate in 40 ml of dry ethanol was refluxed over night. Yield 1.1 g (40%), m.p. 183°-185° C.

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 1.83 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | N,N-dimethylcyanoacetamide | 1.2 g | CN(C(CC#N)=O)C | C5H8N2O
reactant | piperidine acetate | C(C)(=O)O.N1CCCCC1
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N,N-Dimethyl-2-cyano-3-(3,4-dihydroxy-5-nitrophenyl)acrylamide | CN(C(C(=CC1=CC(=C(C(=C1)[N+](=O)[O-])O)O)C#N)=O)C | C12H11N3O5
